data/pmechdb/original/mc_train_fold0/raw/train.txt
CC1=C(C(=O)N2CC[C:20](C2=C1)([OH2+:21])[O:10]CCO)C#N.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CC1=C(C(=O)N2CC[C:20](=[O+:10]CCO)C2=C1)C#N.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
CC(=O)C1=CC=C[CH:10]=[CH:11]1.[N+:20](=O)=[O:21]>>CC(=O)C1=CC=C[CH:10]([CH+:11]1)[N+:20](=O)[O-:21] 10,11=10,20;20,21=21
[H:20][OH2+:21].[P:10](I)(I)I>>[H:20][P+:10](I)(I)I.[OH2:21] 10=20;20,21=21
CC(C)OC(CCC1=CC=CC=C1)[O+]([Si](C)(C)C)[Si-:10](C)(C)(C)[O:11]S(=O)(=O)C(F)(F)F.C[Si](C)(C)CC=C>>C(F)(F)(F)S(=O)(=O)[O-:11].CC(C)OC(CCC1=CC=CC=C1)[O+]([Si:10](C)(C)C)[Si](C)(C)C.C[Si](C)(C)CC=C 10,11=11
[H:20][N+:21]1=CC=CC=C1.CC(=[O:10])C1CCC2C1(CCC3C2CC=C4C3(CCC(C4)O)C)C.C(CO)O.[Cl-]>>[H:20][O+:10]=C(C)C1CCC2C1(CCC3C2CC=C4C3(CCC(C4)O)C)C.C1=CC=[N:21]C=C1.C(CO)O.[Cl-] 10=20;20,21=21
[H:20][C:21]12[C:22](=[CH:23][CH:24]=[S+:25]1)C3=C(C=CC=C3)C=C2N=S(=O)(C)C4=CC=CC=C4.C(F)(F)(F)S(=O)(=O)[N-:10]S(=O)(=O)C(F)(F)F>>[H:20][N:10](S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.CS(=NC1=CC2=C(C=CC=C2)[C:22]3=[C:21]1[S:25][CH:24]=[CH:23]3)(=O)C4=CC=CC=C4 10=20;24,25=25;20,21=21,22;22,23=23,24
[H:20][C:21]1([CH+:22]C(=CO1)C)Br.[Br-:10]>>[H:20][Br:10].CC1=CO[C:21](=[CH:22]1)Br 10=20;20,21=21,22
C1=CC=C(C=C1)[C:20](=[OH+:21])CC(C#N)C(=[O:10])C2=CC=CC=C2.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1>>C1C(C(=[O+:10][C:20]1(C2=CC=CC=C2)[OH:21])C3=CC=CC=C3)C#N.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1 10=20;20,21=21
[H:20][S+:21](CC)CC=C(C)[O-].[OH2:10]>>[H:20][OH2+:10].CC[S:21]CC=C(C)[O-] 10=20;20,21=21
C[CH:20]([NH+:21](C)C)[O:10]C>>C[CH:20]=[O+:10]C.C[NH:21]C 10=20;20,21=21
CCC(=O)N[C:11]1=[CH:10]C=CC=C1.[N+:20](=O)=[O:21]>>CCC(=O)N[C+:11]1C=CC=C[CH:10]1[N+:20](=O)[O-:21] 10,11=10,20;20,21=21
[Li:11][CH:10]=C[Li].C1[CH2:20][O:21]1>>[Li+:11].[Li]C=[CH:10][CH2:20]C[O-:21] 10,11=10,20;20,21=21
[H:10][BH3-:11].C(C[CH:20]=[O:21])CC(=O)O>>[H:10][CH:20](CCCC(=O)O)[O-:21].[BH3:11] 10,11=10,20;20,21=21
CC(=C[C:20]([C:21]1=[N+](N=C2N1C3C(CC4=C3C=CC=C4)OC2)C5=C(C(=C(C(=C5F)F)F)F)F)(C(C6=CC=CC=C6)C(C(=O)C)C(=O)C7=CC=CC=C7)[O-:10])C8=CC=CC=C8.[B-](F)(F)(F)F.C1CCC2=[NH+]CCCN2CC1>>CC(=C[C:20](=[O:10])C(C1=CC=CC=C1)C(C(=O)C)C(=O)C2=CC=CC=C2)C3=CC=CC=C3.C1C2C(C3=C1C=CC=C3)N4[C-:21]=[N+](N=C4CO2)C5=C(C(=C(C(=C5F)F)F)F)F.[B-](F)(F)(F)F.C1CCC2=[NH+]CCCN2CC1 10=20;20,21=21
CC[NH2:10].C[CH:20](C(=O)C)[Br:21]>>CC[NH2+:10][CH:20](C)C(=O)C.[Br-:21] 10=20;20,21=21
[H:20][O:21]C(=O)CC1=CC=CC=C1.C1CCC(CC1)N=C=[N:10]C2CCCCC2.CCOC(=O)CC=CCO.C1CCN(C1)C2=CC=NC=C2>>[H:20][N+:10](=C=NC1CCCCC1)C2CCCCC2.C1=CC=C(C=C1)CC(=O)[O-:21].CCOC(=O)CC=CCO.C1CCN(C1)C2=CC=NC=C2 10=20;20,21=21
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)OC=C)C(C)OC2=CC=CC=C2.[F-:10]>>[H:20][F:10].CC([C:21]1=[CH:22][CH:23]=[C:24](C=C1)OC=C)OC2=CC=CC=C2 10=20;20,21=21,22;22,23=23,24
[H:20][O:21]C(C#N)C1=CC=CC=C1.CC1=CC=C(C=C1)CC(C2=CC=CC=C2)[O-:10].C1=CC=C(C=C1)CC(=O)C2=CC=CC=C2>>[H:20][O:10]C(CC1=CC=C(C=C1)C)C2=CC=CC=C2.C1=CC=C(C=C1)CC(=O)C2=CC=CC=C2.C1=CC=C(C=C1)C(C#N)[O-:21] 10=20;20,21=21
CCOC1C(C(=N[OH:10])C1(C)C)C.C1=CC(=CC=C1[C:20](=[O:21])Cl)[N+](=O)[O-]>>CCOC1C(C(=N[OH+:10][C:20](C2=CC=C(C=C2)[N+](=O)[O-])([O-:21])Cl)C1(C)C)C 10=20;20,21=21
[H:20][CH:21]1C2C3CC4=C5C2(CCN3CCCCCC)C(C([CH:22]1[Br:23])(OC)OC)OC5=C(C=C4)OC.CC(C)(C)[O-:10].CS(=O)C.[K+]>>[H:20][O:10]C(C)(C)C.CCCCCCN1CCC23C4C1CC5=C2C(=C(C=C5)OC)OC3C([CH:22]=[CH:21]4)(OC)OC.[Br-:23].CS(=O)C.[K+] 10=20;22,23=23;20,21=21,22
C[C:11](=[CH2:10])[O-:12].C[C:22](=[O:23])[CH:21]=[CH2:20]>>C[C:11](=[O:12])[CH2:10][CH2:20][CH:21]=[C:22](C)[O-:23] 10,11=10,20;12=11;22,23=23;20,21=21,22
CC1=C[CH:10]=[C:11](C=C1)O.C1=CC=C(C=C1)[N+:21]#[N:20]>>CC1=C[CH:10]([C+:11](C=C1)O)[N:20]=[N:21]C2=CC=CC=C2 10,11=10,20;20,21=21
[Li:11][C:10]1(CC1)[Si](C)(C)C.C1CC[C:20](=[O:21])CC1>>[Li+:11].C[Si](C)(C)[C:10]1(CC1)[C:20]2(CCCCC2)[O-:21] 10,11=10,20;20,21=21
[H:20][C:21](CC#C)(C(=O)OC)C(=O)OC.[H:10][Na:11]>>COC(=O)[C-:21](CC#C)C(=O)OC.[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)OC(C)CCC[N:10](C)C.[CH3:20][I:21]>>CC1=CC=C(C=C1)S(=O)(=O)OC(C)CCC[N+:10](C)(C)[CH3:20].[I-:21] 10=20;20,21=21
C[C:11](=[CH:10]CCC(=C[CH2+:20])C)C.[O-]P1(=O)O[Mg]OP(=O)(O1)[O-]>>CC1=C[CH2:20][CH:10](CC1)[C+:11](C)C.[O-]P1(=O)O[Mg]OP(=O)(O1)[O-] 10,11=10,20
[B:20](F)(F)F.CCCC(OC)[O:10]C>>[B-:20]([O+:10](C)C(CCC)OC)(F)(F)F 10=20,
[H:20][OH+:21]CC.CCCCC(C(=[C:10]=[C:11](CCCC)[O-:12])[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)O>>[H:20][C:10](=C(C(CCCC)O)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)[C:11](=[O:12])CCCC.CC[OH:21] 10,11=10,20;20,21=21;12=11
C[S:20](=[OH+:21])[OH:10]>>C[S:20](=[OH+:10])[OH:21] 10=20;20,21=21
CCCCCNCC1=C(C=CC=C1)CC=O.CCCCC[N:10]1CC2=C(C[CH:20]1[OH2+:21])C=CC=C2>>CCCCCNCC1=C(C=CC=C1)CC=O.CCCCC[N+:10]1=[CH:20]CC2=C(C1)C=CC=C2.[OH2:21] 10=20;20,21=21
[B-]([O:10][CH:20](C)[OH+:21]C)(F)(F)F>>[B-]([O+:10]=[CH:20]C)(F)(F)F.C[OH:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CC(=[O:10])O>>[H:20][O+:10]=C(C)O.OS(=O)(=O)[O-:21] 10=20;20,21=21
